US05972937
3-(2-Dimethylaninoethoxy)aniline
To a solution of 1-(2-dimethylaminoethoxy)-3-nitrobenzene (4.64 g, 22 mmol) in ethanol (200 ml) was added 10% palladium catalyst on charcoal (1 g). The reaction mixture was hydrogenated at atmospheric pressure for 2 hours, then filtered through kieselguhr and evaporated under reduced pressure to give the product as a yellow oil (4.0 g, 100%).

reactant | 1-(2-dimethylaminoethoxy)-3-nitrobenzene | 22 mmol, 4.64 g | CN(CCOC1=CC(=CC=C1)[N+](=O)[O-])C | C10H14N2O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 3-(2-Dimethylaninoethoxy)aniline | 4.0 g, 100% | CN(CCOC=1C=C(N)C=CC1)C | C10H16N2O
